US05998452
Preparation of 3-(3-Bromopropyl)-5-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,3,4-oxadiazol-2(3H)-one
To a solution of 5-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,3,4-oxadiazol-2(3H)-one (0.50 g) in dimethylformamide (8 ml) were added sodium carbonate (0.36 g) and 1,3-dibromo-propane (1.74 g), followed by stirring at room temperature for 5 hours. After completion of the reaction, the reaction mixture was poured into ice-water, and the product was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform) and then recrystallized from chloroform/n-hexane to afford 0.45 g (63%) of the title compound as colorless crystals. mp 130-131° C. NMR (CDCl3) (200 MHz) δ: 1.46 (18H, s), 2.1-2.6 (2H, m), 3.46 (2H, t, J=6.6 Hz), 3.93 (2H, t,J=6.6 Hz), 5.60 (1H, s), 7.63 (2H, s)

reactant | 5-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,3,4-oxadiazol-2(3H)-one | 0.50 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC(O1)=O | C16H22N2O3
reactant | sodium carbonate | 0.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3-dibromo-propane | 1.74 g | BrCCCBr | C3H6Br2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 3-(3-Bromopropyl)-5-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,3,4-oxadiazol-2(3H)-one | 0.45 g, 63% | BrCCCN1C(OC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C19H27BrN2O3
